US05250678
17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(4'"-hydroxycinnamyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(4'"-t-butyldimethylsiloxycinnamyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (190 mg in 2 ml tetrahydrofuran contained in a polypropylene vial) was added 500 μof a solution of hydrogen fluoride-pyridine complex (40% in (2:1) tetrahydrofuran:pyridine) and the mixture stirred at room temperature. After 2 hours, the reaction was quenched by the careful addition of saturated sodium bicarbonate and extracted with ethyl acetate. The combined organics were dried over magnesium sulfate, concentrated in vacuo and purified by flash chromatography on silica gel (ethyl acetate:hexane (2:1) to give the title compound (50 mg).

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(4'"-t-butyldimethylsiloxycinnamyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCC=CC2=CC=C(C=C2)O[Si](C)(C)C(C)(C)C)OC)C)C)O)=O | C58H91NO13Si
reactant | polypropylene | C(C(C)[*:2])[*:1]
reactant | hydrogen fluoride-pyridine | N1=CC=CC=C1.F
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(4'"-hydroxycinnamyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 50 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCC=CC2=CC=C(C=C2)O)OC)C)C)O)=O | C52H77NO13
